* G:\09 DROPBOX\CODE\GIT_REPOS\XY_AUDIO_PLOTTER\XY-AFE.asc
XU1 N003 N001 v 0 N002 OP191
V1 v 0 3.3
R2 N002 N001 10k
R4 0 N001 6k8
R5 vout N002 100
V2 vin 0 SINE(0 1.05 20000)
R1 v N005 10k
R3 N005 0 10k
R6 N003 vin 680
C2 v 0 100n
XU2 N005 N004 v 0 N004 OP191
R7 N003 N004 1k
.tran 0.002s
* 6k8 and 10k for 1v pk-pk to 1.65v pk-pk
* R4 and R2
* whats the max vout from the pc line-out?
* 10k pot
* 10k pot
.lib ADI.lib
.backanno
.end
